US06730684B1
a) 1-Methylindole-2-carboxamide
To a solution of 1-methylindole-2-carboxylic acid (5.0 g, 28.5 mmole) in THF (100 mL) at 0° C. was added N-methylmorpholine (3.5 mL, 31.8 mmole) followed by isobutyl chloroformate (4.0 mL, 30.8 mmole) dropwise over 5 minutes. A thick slurry formed quickly. The mixture was stirred for 30 min, then conc. NH4OH (4.0 mL. 58 mmole) was added in one portion with vigorous stirring, and the cooling bath was removed. The reaction was stirred at RT for 4 hr then was concentrated to dryness. The residue was triturated with 1.0 N Na2CO3 (50 mL), filtered, washed with a small volume of cold water, and dried under vacuum to give the title compound (2.46 g, 50%) as a white solid: Silica gel TLC (5% MeOH/CHCl3) Rf0.50.

reactant | 1-methylindole-2-carboxylic acid | 28.5 mmole, 5.0 g | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | N-methylmorpholine | 31.8 mmole, 3.5 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 30.8 mmole, 4.0 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NH4OH | 58 mmole, 4.0 mL | [NH4+].[OH-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-Methylindole-2-carboxamide | 2.46 g, 50% | CN1C(=CC2=CC=CC=C12)C(=O)N | C10H10N2O
